US08084620B2
Step 2 A solution of methyl-3-amino-2′-fluorobiphenyl-4-carboxylate (0.425 g, 1.73 mmol) in 1 M aqueous sodium hydroxide (6.9 mL, 6.9 mmol) and THF (3.5 mL) was heated at reflux overnight. The mixture was cooled to rt and concentrated almost to dryness. 6 M hydrochloric acid (0.1 mL) was added to the solution at 0° C. and the precipitate was collected by filtration, washed with water and dried to give 3-amino-2′-fluorobiphenyl-4-carboxylic acid (0.338 g, 84%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.87, d, 8.25, 1H), 7.50 (t, J=7.97, 1H), 7.47-7.55 (m, 1H), 7.25-7.36 (m, 2H), 6.92 (br s, 1H), 6.76 (s, 1H), 6.59 (d, J=7.70, 1H). Mass spectrum m/z 232.1 (M+H)+.

reactant | methyl-3-amino-2′-fluorobiphenyl-4-carboxylate | 1.73 mmol, 0.425 g | COC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)F)N | C14H12FNO2
reactant | sodium hydroxide | 6.9 mmol, 1 M, 6.9 mL | [OH-].[Na+]
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 3-amino-2′-fluorobiphenyl-4-carboxylic acid | 0.338 g, 84% | NC=1C=C(C=CC1C(=O)O)C1=C(C=CC=C1)F | C13H10FNO2
